US05391556
4-Cyclohexyl-N-[1-(1H-benzimidazol-5-yl-methyl)-2-(4-methyl-piperidin-1-yl)-2-oxo-ethyl]-benzenesulphonamide
Prepared from 4-cyclohexyl-N-[1-((4-amino-3-nitrophenyl)-methyl)-2-(4-methyl-piperidin-1-yl)-2-oxoethyl]-benzenesulphonamide and cyclising with formic acid in the presence of palladium/charcoal analogously to Example 1.

reactant | 4-cyclohexyl-N-[1-((4-amino-3-nitrophenyl)-methyl)-2-(4-methyl-piperidin-1-yl)-2-oxoethyl]-benzenesulphonamide | C1(CCCCC1)C1=CC=C(C=C1)S(=O)(=O)NC(C(=O)N1CCC(CC1)C)CC1=CC(=C(C=C1)N)[N+](=O)[O-] | C27H36N4O5S
reactant | formic acid | C(=O)O | CH2O2
catalyst | palladium/charcoal | [Pd] | Pd
product | 4-Cyclohexyl-N-[1-(1H-benzimidazol-5-yl-methyl)-2-(4-methyl-piperidin-1-yl)-2-oxo-ethyl]-benzenesulphonamide | C1(CCCCC1)C1=CC=C(C=C1)S(=O)(=O)NC(C(=O)N1CCC(CC1)C)CC1=CC2=C(NC=N2)C=C1 | C28H36N4O3S
